US06369088B2
5-Methoxy-3-(4-(3,4-dichlorophenylaminocarbonylamino)-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one
The latter compound was obtained by reacting 5-methoxy-3-(4-amino-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one with equimolar amounts of 3,4-dichlorophenyl isocyanate in toluene at 50° C.

reactant | 5-methoxy-3-(4-amino-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one | COC1=NN(C(O1)=O)C1=CC(=C(C=C1)N)C | C10H11N3O3
reactant | 3,4-dichlorophenyl isocyanate | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Methoxy-3-(4-(3,4-dichlorophenylaminocarbonylamino)-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one | COC1=NN(C(O1)=O)C1=CC(=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)Cl)C | C17H14Cl2N4O4
